US06713645B1
A. Preparation of ethyl [4-methoxyindol-3-yl]acetate
To a solution of 2.94 gm (20 mmol) of 4-methoxyindole in 150 ml of tetrahydrofuran was added slowly 13 ml of n-butyl lithium (1.6M in hexane; 20 mmol) followed by the slow addition of 20 ml of zinc chloride (1.0M in ethyl ether; 20 mmol) at 0-5° C. The cooling bath was removed and the solution stirred for 2 hours and then treated with 2.1 ml (25 mmol) of ethyl bromoacetate for 19 hours, diluted with ethyl acetate, washed with water, washed with brine, dried over sodium sulfate, and evaporated in vacuo. The residue was chromatographed on silica gel eluting with a gradient hexane/10-50% ethyl ether to give starting material (40%) and then product, 2.3 gm, 50%, as an oil. 1H NMR (CDCl3) δ: 1.25 (t, 3H), 3.85 (s, 3H), 3.90 (s, 2H), 4.10 (q, 2H), 6.45 (d, 1H), 6.90 (d, 1H), 6.95 (s, 1H), 7.05 (t, 1H), 8.00 (br s, 1H).

reactant | 4-methoxyindole | 20 mmol, 2.94 gm | COC1=C2C=CNC2=CC=C1 | C9H9NO
reactant | n-butyl lithium | 20 mmol, 1.6M, 13 ml | C(CCC)[Li]
reactant | ethyl bromoacetate | 25 mmol, 2.1 ml | BrCC(=O)OCC | C4H7BrO2
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | zinc chloride | 20 mmol, 1.0M, 20 ml | [Cl-].[Zn+2].[Cl-]
product | ethyl [4-methoxyindol-3-yl]acetate | COC1=C2C(=CNC2=CC=C1)CC(=O)OCC | C13H15NO3
